US06906084B2
(v) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid
To a solution of 288 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid methyl ester in 10 ml THF, 3 ml water and 57.0 mg lithium hydroxide monohydrate were added. After stirring for 2 h at 60° C. the reaction was cooled to RT. The mixture was acidified with half concentrated hydrochloric acid. The resulting precipitate was collected by filtration and washed with 3 ml water. The product was obtained as a white solid which was dried under reduced pressure.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid methyl ester | 288 mg | COC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C18H13ClN2O3S
reactant | lithium hydroxide monohydrate | 57.0 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC2=CC=CC=C12)C(=O)O | C17H11ClN2O3S
